US04493844
A solution containing 6,7-dihydro-5H-dibenzo[a,c]cyclohepten-4-methanamine (0.5 gram, 0.0022 mole) and benzene (40 ml) was added dropwise to a stirred solution of cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarboxylic acid chloride (0.75 gram, 0.0029 mole) and pyridine (1.0 gram, 0.013 mole) in benzene (20 ml). The resulting mixture was stirred at room temperature for approximately 16 hours, poured into water and the total extracted with three 100 ml portions of diethyl ether. The combined extracts were washed with a 10% aqueous sodium carbonate solution (100 ml) followed by two 50 ml portions of water. The washed extracts were dried over anhydrous magnesium sulfate, and filtered. The solvent was evaporated from the filtrate under reduced pressure leaving a yellow residue. This residue was purified by column chromatography on silica gel, elution with benzene:diethyl ether (3:1), to yield N-(6,7-dihydro-5H-dibenzo[a,c]cyclohepten-4-yl)methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxamide as a colorless solid (0.85 gram, mp 65°-70°).

reactant | 6,7-dihydro-5H-dibenzo[a,c]cyclohepten-4-methanamine | 0.0022 mole, 0.5 gram | C1=CC=C(C2=C1C1=C(CCC2)C=CC=C1)CN | C16H17N
reactant | cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarboxylic acid chloride | 0.0029 mole, 0.75 gram | ClC(=C[C@H]1C([C@H]1C(=O)Cl)(C)C)C(F)(F)F | C9H9Cl2F3O
reactant | pyridine | 0.013 mole, 1.0 gram | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | N-(6,7-dihydro-5H-dibenzo[a,c]cyclohepten-4-yl)methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxamide | 0.85 gram | C1=CC=C(C2=C1C1=C(CCC2)C=CC=C1)CNC(=O)[C@@H]1C([C@@H]1C=C(C(F)(F)F)Cl)(C)C | C25H25ClF3NO
